.subckt Comparator Greater Equal Less node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 En vdd gnd
    X1 eq3 node_a3 node_b3 vdd gnd XNOR2IN
    X2 eq2 node_a2 node_b2 vdd gnd XNOR2IN
    X3 eq1 node_a1 node_b1 vdd gnd XNOR2IN
    X4 eq0 node_a0 node_b0 vdd gnd XNOR2IN
    X5 b3c node_b3 vdd gnd NOT
    X6 b2c node_b2 vdd gnd NOT
    X7 b1c node_b1 vdd gnd NOT
    X8 b0c node_b0 vdd gnd NOT
    X9 gt3 node_a3 b3c vdd gnd AND2IN
    X10 gt2 node_a2 b2c eq3 vdd gnd AND3IN
    X11 gt1 node_a1 b1c eq3 eq2 vdd gnd AND4IN
    X12 gt0 node_a0 b0c eq3 eq2 eq1 vdd gnd AND5IN
    X13 Greater gt0 gt1 gt2 gt3 vdd gnd OR4IN
    X14 Equal eq0 eq1 eq2 eq3 En vdd gnd AND5IN
    X15 tempLess Greater Equal vdd gnd NOR2IN
    x16 Less tempLess En vdd gnd AND2IN
.ends Comparator